US07951810B2
Step h: 2-[(3aR,4R,6R,6aR)-6-(6-(Indan-1-ylamino)-purin-9-yl)-2,2-dimethyltetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-ethanesulfonamide
2-[(3aR,4R,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-ethanesulfonamide (45.0 mg, 0.000111 mol), (S)-(+)-1-aminoindane (20.0 μL, 0.000156 mol) and N,N-diisopropylethylamine (24.0 μL, 0.000138 mol) were dissolved in ethanol (1.25 mL, 0.0214 mol) and reacted in a microwave at 140° C. for 10 minutes. The mixture was then concentrated in vacuo and used crude in the next step.

reactant | 2-[(3aR,4R,6R,6aR)-6-(6-Chloro-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-ethanesulfonamide | 0.000111 mol, 45.0 mg | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CCS(=O)(=O)N | C14H18ClN5O5S
reactant | (S)-(+)-1-aminoindane | 0.000156 mol, 20.0 μL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | N,N-diisopropylethylamine | 0.000138 mol, 24.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 0.0214 mol, 1.25 mL | C(C)O | C2H6O
product | 2-[(3aR,4R,6R,6aR)-6-(6-(Indan-1-ylamino)-purin-9-yl)-2,2-dimethyltetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-ethanesulfonamide | C1(CCC2=CC=CC=C12)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CCS(=O)(=O)N | C23H28N6O5S
